### PR TITLE
[Merged by Bors] - chore(GroupTheory): process a first batch of porting notes

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Divisible.lean [hunk 1]
```diff
@@ -223,14 +223,12 @@ def rootableByNatOfRootableByInt [RootableBy A ℤ] : RootableBy A ℕ where
   root a n := RootableBy.root a (n : ℤ)
   root_zero a := RootableBy.root_zero a
   root_cancel {n} a hn := by
-    -- Porting note: replaced `norm_num`
     simpa only [zpow_natCast] using RootableBy.root_cancel a (show (n : ℤ) ≠ 0 from mod_cast hn)
```
Comment (b-mehta) [inline Mathlib/GroupTheory/Divisible.lean:226]: Does norm_num still not work here? If not, isn't this still a valid porting note (perhaps can be linked to the tracking issue of things missing from norm_num)

File: Mathlib/GroupTheory/MonoidLocalization/Basic.lean [hunk 2]
```diff
@@ -949,11 +945,7 @@ of the induced maps equals the map of localizations induced by `l ∘ g`."]
 theorem map_map {A : Type*} [CommMonoid A] {U : Submonoid A} {R} [CommMonoid R]
     (j : LocalizationMap U R) {l : P →* A} (hl : ∀ w : T, l w ∈ U) (x) :
     k.map hl j (f.map hy k x) = f.map (fun x ↦ show l.comp g x ∈ U from hl ⟨g x, hy x⟩) j x := by
--- Porting note: Lean has a hard time figuring out what the implicit arguments should be
--- when calling `map_comp_map`. Hence the original line below has to be replaced by a much more
--- explicit one
---  rw [← f.map_comp_map hy j hl]
-  rw [← @map_comp_map M _ S N _ P _ f g T hy Q _ k A _ U R _ j l hl]
+  rw [← f.map_comp_map (k := k) hy j hl]
```
Comment (b-mehta) [inline Mathlib/GroupTheory/MonoidLocalization/Basic.lean:948]: The concern about having to specify `k` still applies here, right?

File: Mathlib/GroupTheory/Perm/Basic.lean [hunk 3]
```diff
@@ -378,7 +378,6 @@ theorem ofSubtype_subtypePerm {f : Perm α} (h₁ : ∀ x, p x ↔ p (f x)) (h
     by_cases hx : p x
     · exact (subtypePerm f h₁).extendDomain_apply_subtype _ hx
     · rw [ofSubtype, MonoidHom.coe_mk]
-      -- Porting note: added `dsimp`
```
Comment (b-mehta) [inline Mathlib/GroupTheory/Perm/Basic.lean:381]: Is the dsimp still needed? This porting note reads like the `rw` used to work in Lean 3, but now needs the`dsimp` before it is successful: is this still true?

File: Mathlib/GroupTheory/Perm/Basic.lean [hunk 4]
```diff
@@ -436,13 +435,11 @@ protected def subtypeEquivSubtypePerm (p : α → Prop) [DecidablePred p] :
     Subtype.ext ((Equiv.Perm.ofSubtype_subtypePerm _) fun a => Not.decidable_imp_symm <| f.prop a)
 
 theorem subtypeEquivSubtypePerm_apply_of_mem (f : Perm (Subtype p)) (h : p a) :
-    -- Porting note: was `Perm.subtypeEquivSubtypePerm p f a`
-    ((Perm.subtypeEquivSubtypePerm p).toFun f).1 a = f ⟨a, h⟩ :=
+    ((Perm.subtypeEquivSubtypePerm p) f).1 a = f ⟨a, h⟩ :=
```
Comment (b-mehta) [inline Mathlib/GroupTheory/Perm/Basic.lean:438]:
```suggestion
    (Perm.subtypeEquivSubtypePerm p f).1 a = f ⟨a, h⟩ :=
```
maybe?

File: Mathlib/GroupTheory/Perm/Cycle/Concrete.lean [hunk 5]
```diff
@@ -287,7 +287,6 @@ theorem SameCycle.toList_isRotated {f : Perm α} {x y : α} (h : SameCycle f x y
   by_cases hx : x ∈ f.support
   · obtain ⟨_ | k, _, hy⟩ := h.exists_pow_eq_of_mem_support hx
     · simp only [coe_one, id, pow_zero] at hy
-      -- Porting note: added `IsRotated.refl`
       simp [hy, IsRotated.refl]
```
Comment (b-mehta) [inline Mathlib/GroupTheory/Perm/Cycle/Concrete.lean:290]: Is `IsRotated.refl` still needed here? If not, it looks like the porting note still applies.

File: Mathlib/GroupTheory/SpecificGroups/Alternating.lean [hunk 6]
```diff
@@ -65,7 +65,6 @@ variable (α : Type*) [Fintype α] [DecidableEq α]
 def alternatingGroup : Subgroup (Perm α) :=
   sign.ker
 
--- Porting note (https://github.com/leanprover-community/mathlib4/issues/10754): manually added instance
```
Comment (b-mehta) [inline Mathlib/GroupTheory/SpecificGroups/Alternating.lean:68]: As far as I can tell, this issue is still open: is there a reason to stop tracking it?

File: Mathlib/GroupTheory/SpecificGroups/Alternating.lean [hunk 7]
```diff
@@ -259,7 +258,6 @@ theorem normalClosure_finRotate_five : normalClosure ({⟨finRotate 5,
           normalClosure _ :=
         SetLike.mem_coe.1 (subset_normalClosure (Set.mem_singleton _))
       exact (mul_mem (Subgroup.normalClosure_normal.conj_mem _ h
-        -- Porting note: added `: _`
         ⟨Fin.cycleRange 2, Fin.isThreeCycle_cycleRange_two.mem_alternatingGroup⟩) (inv_mem h) :))
```
Comment (b-mehta) [inline Mathlib/GroupTheory/SpecificGroups/Alternating.lean:261]: Do we still need the `:` here? If so, it seems to me like the porting note still applies.

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean [hunk 8]
```diff
@@ -147,24 +151,19 @@ theorem r_one_pow (k : ℕ) : (r 1 : DihedralGroup n) ^ k = r k := by
...
 /-- If `0 < n`, then `sr i` has order 2.
 -/
 @[simp]
 theorem orderOf_sr (i : ZMod n) : orderOf (sr i) = 2 := by
   apply orderOf_eq_prime
   · rw [sq, sr_mul_self]
-  · -- Porting note: Previous proof was `decide`
-    revert n
-    simp_rw [one_def, ne_eq, reduceCtorEq, forall_const, not_false_eq_true]
+  · simp [← r_zero]
```
Comment (b-mehta) [inline Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:166]: Does `decide` work here? If not, can we isolate what the regression in `decide` is?

File: Mathlib/GroupTheory/Congruence/Basic.lean [hunk 9]
```diff
@@ -171,7 +170,6 @@ theorem le_iff {c d : Con M} : c ≤ d ↔ (c : Submonoid (M × M)) ≤ d :=
 variable (x y : M)
 
 @[to_additive (attr := simp)]
--- Porting note: removed dot notation
 theorem mrange_mk' : MonoidHom.mrange c.mk' = ⊤ :=
```
Comment (b-mehta) [inline Mathlib/GroupTheory/Congruence/Basic.lean:173]: Does dot notation still not work here?

File: Mathlib/GroupTheory/Perm/Basic.lean (hunk 3 above)
Comment (jcommelin) [reply Mathlib/GroupTheory/Perm/Basic.lean:381]: I don't know what happened here. This can all be one `rw`, but somehow didn't end up in the patch :shrug:

File: Mathlib/GroupTheory/Divisible.lean (hunk 1 above)
Comment (jcommelin) [reply Mathlib/GroupTheory/Divisible.lean:226]: Oops, restored.

File: Mathlib/GroupTheory/MonoidLocalization/Basic.lean (hunk 2 above)
Comment (jcommelin) [reply Mathlib/GroupTheory/MonoidLocalization/Basic.lean:948]: I wrote a new porting note about specifying `k` explicitly. Although I think it is a minor concern.

File: Mathlib/GroupTheory/SpecificGroups/Alternating.lean (hunk 6 above)
Comment (jcommelin) [reply Mathlib/GroupTheory/SpecificGroups/Alternating.lean:68]: I am proposing to declare almost all of these wontfix.

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean (hunk 8 above)
Comment (jcommelin) [reply Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:166]: To me this doesn't look like a goal that `decide` should be solving, especially after the revert.
My guess is that `decide` was applying `no_confusion` under the hood. I'm not sure that is its job.
So I propose wontfix.

File: Mathlib/GroupTheory/SpecificGroups/Alternating.lean (hunk 7 above)
Comment (jcommelin) [reply Mathlib/GroupTheory/SpecificGroups/Alternating.lean:261]: You are right.

File: Mathlib/GroupTheory/Perm/Cycle/Concrete.lean (hunk 5 above)
Comment (jcommelin) [reply Mathlib/GroupTheory/Perm/Cycle/Concrete.lean]: Restored.

File: Mathlib/GroupTheory/Congruence/Basic.lean (hunk 9 above)
Comment (jcommelin) [reply Mathlib/GroupTheory/Congruence/Basic.lean]: Restored.

File: Mathlib/GroupTheory/SpecificGroups/Alternating.lean (hunk 6 above)
Comment (Vierkantor) [reply Mathlib/GroupTheory/SpecificGroups/Alternating.lean:68]: I agree with Johan here: needing to copy instances for non-reducible `def`s is how Lean 4 is designed. Perhaps `deriving` should be improved so we don't have to do this manually, but the fact of copying is a wontfix.

Comment (b-mehta) [reply Mathlib/GroupTheory/SpecificGroups/Alternating.lean:68]: Makes sense. I agree deriving would be nice here too!

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors merge
